US07585885B2
2-Methanesulfonylamino-6-(methylpropylamino)-isonicotinic acid methyl ester
Dissolve methane sulfonamide (951 mg, 10 mmol) in THF (30 mL). Add sodium hydride (380 mg, 9.5 mmol, 60% dispersion in mineral oil) and reflux for 3 h, cool to room temperature and concentrate. Charge a sealed flask with sodium methansulfonamide (478 mg, 4.09 mmol), 2-chloro-6-(methylpropylamino)-isonicotinic acid methyl ester (79 mg, 3.27 mmol), biphenyl-2-yl-di-tert-butylphosphane (98 mg, 0.33 mmol), and tris(dibenzylideneacetone)dipalladium (0) (150 mg, 0.16 mmol) in toluene (7 mL). Degas with argon, seal the vessel and heat at 100° C. for 16 h. Cool to room temperature, dilute with ethyl acetate, wash with water, aqueous sodium chloride, concentrate and purify (silica gel chromatography, eluting with 0:100 to 50:50 ethyl acetate:hexanes) to give the title compound as an oil (870 mg, 88%).

reactant | methane sulfonamide | 10 mmol, 951 mg | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydride | 9.5 mmol, 380 mg | [H-].[Na+]
reactant | sodium methansulfonamide | 4.09 mmol, 478 mg | CS(=O)(=O)N.[Na]
reactant | 2-chloro-6-(methylpropylamino)-isonicotinic acid methyl ester | 3.27 mmol, 79 mg | COC(C1=CC(=NC(=C1)N(CCC)C)Cl)=O | C11H15ClN2O2
reactant | biphenyl-2-yl-di-tert-butylphosphane | 0.33 mmol, 98 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.16 mmol, 150 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Methanesulfonylamino-6-(methylpropylamino)-isonicotinic acid methyl ester | 870 mg, 88% | COC(C1=CC(=NC(=C1)N(CCC)C)NS(=O)(=O)C)=O | C12H19N3O4S
